### PR TITLE
Clean up Foundations

### PR DESCRIPTION
**Pull request by DanGrayson**
We also perform various easily automated conversions to notation in all of UniMath, and fix a few other things.

This is part of fulfilling #772.

### CODE REVIEW

File: UniMath/CategoryTheory/categories/category_hset.v [hunk 1]
```diff
@@ -161,15 +161,15 @@ Proof.
...
+  weq ((pr1 A) ≃ (pr1 B))(iso A B).
 Proof.
   exists (hset_equiv_iso A B).
   apply hset_equiv_iso_is_equiv.
 Defined.
 
 (** ** HSET is a univalent_category. *)
 
-Definition univalenceweq (X X' : UU) : weq (X = X') (weq X X') :=
+Definition univalenceweq (X X' : UU) : weq (X = X') (X ≃ X') :=
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/categories/category_hset.v]: It looks like the replacement only works on the inner `weq`, in several places in this file.

**Comment by benediktahrens** [comment]
Would it be possible to put the compilation flags in a file that would be read by both the Makefile and the emacs config file?

**Comment by benediktahrens** [comment]
still lgtm

**Comment by DanGrayson** [comment]
At the moment I don't know how to get emacs to read a file of options and put it in the right place.

Merging.

File: UniMath/Algebra/Apartness.v [hunk 2]
```diff
@@ -9,6 +9,7 @@ Require Export UniMath.Algebra.BinaryOperations.
 Require Import UniMath.Foundations.Propositions.
 
 Require Import UniMath.MoreFoundations.Tactics.
+Require Import UniMath.MoreFoundations.DecidablePropositions.
```
Comment (siddharthist) [inline UniMath/Algebra/Apartness.v]: If no additional lines in this file are changed, why does it require an additional import?

File: UniMath/MoreFoundations/Propositions.v [hunk 3]
```diff
@@ -55,12 +56,11 @@ Lemma dneg_elim_to_LEM : (∏ P:hProp, ¬ ¬ P -> P) -> LEM.
...
-  - apply isapropdec, P.
-  - simpl. intros n.
-    assert (q : ¬ (P ∨ ¬ P)).
-    { now apply weqnegtonegishinh. }
-    assert (r := fromnegcoprod_prop q).
-    exact (pr2 r (pr1 r)).
+  simpl. intros n.
+  assert (q : ¬ (P ∨ ¬ P)).
+  { now apply weqnegtonegishinh. }
+  assert (r := fromnegcoprod_prop q).
```
Comment (siddharthist) [inline UniMath/MoreFoundations/Propositions.v]: What's the difference between using `assert` vs. `pose` here, if any?

**Comment by benediktahrens** [comment]
On 10/26/2017 07:38 PM, Langston Barrett wrote:
> siddharthist commented on this pull request.
> 
> 
> 
>> @@ -55,12 +56,11 @@ Lemma dneg_elim_to_LEM : (∏ P:hProp, ¬ ¬ P -> P) -> LEM.
>  (* a converse for Lemma dneg_LEM *)
>  Proof.
>    intros dne. intros P. simple refine (dne (_,,_) _).
> -  - apply isapropdec, P.
> -  - simpl. intros n.
> -    assert (q : ¬ (P ∨ ¬ P)).
> -    { now apply weqnegtonegishinh. }
> -    assert (r := fromnegcoprod_prop q).
> -    exact (pr2 r (pr1 r)).
> +  simpl. intros n.
> +  assert (q : ¬ (P ∨ ¬ P)).
> +  { now apply weqnegtonegishinh. }
> +  assert (r := fromnegcoprod_prop q).
> 
> What's the difference between using `assert` vs. `pose` here, if any?
> 

From the reference manual
(https://coq.inria.fr/refman/tactics.html#hevea_tactic55):

assert ( ident := term )

This behaves as 'assert (ident : type) by exact term' where type is the
type of term. This is deprecated in favor of pose proof.

So it looks like there is no difference, but we should use `pose` in the
future.

File: UniMath/Algebra/Apartness.v (hunk 2 above)
Comment (DanGrayson) [reply UniMath/Algebra/Apartness.v]: Because a theorem it used was moved.

File: UniMath/MoreFoundations/Propositions.v (hunk 3 above)
Comment (DanGrayson) [reply UniMath/MoreFoundations/Propositions.v]: I never use `pose` and I didn't write that line, sorry.

File: UniMath/Algebra/Apartness.v (hunk 2 above)
Comment (siddharthist) [reply UniMath/Algebra/Apartness.v]: Ah, I see. Thanks!
